US04623729
L-Proline, phenylmethyl ester, hydrochloride (300 mg., 1.25 mmole) is dissolved in 5 ml. of methylene chloride and N-methyl morpholine (0.35 ml., 3.13 mmole) is added. To this solution stirring at -20°, 12% phosgene solution in benzene (2 ml. approximately 1.9 mmole) is added. Stirring is continued at -20° for 30 minutes. The mixture is then evaporated, the residue is suspended in methylene chloride (5 ml.) and (±)-N-[3-(methylamino)-2-oxo-1- (phenylmethyl)propyl]benzamide, hydrochloride (250 mg., 0.76 mmole) is added followed by N-methyl morpholine (0.22 ml., 2 mmole). The reaction mixture is stirred overnight. It is then evaporated, the residue is dissolved in ethyl acetate and washed with saturated sodium bicarbonate, dilute hydrochloric acid, and water. The ethyl acetate solution after evaporation is chromatographed over silica gel using the solvent system, ethyl acetate:benzene (4:6) to give (±)-1-[[[3-(benzoylamino)-2-oxo-4-phenylbutyl]methylamino]carbonyl]-L-proline, phenylmethyl ester (37%) as an oil.

reactant | L-Proline, phenylmethyl ester, hydrochloride | 1.25 mmole, 300 mg | Cl.N1[C@H](C(=O)OCC2=CC=CC=C2)CCC1
reactant | N-methyl morpholine | 3.13 mmole, 0.35 ml | CN1CCOCC1 | C5H11NO
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | benzene | approximately 1.9 mmole, 2 ml | C1=CC=CC=C1 | C6H6
reactant | (±)-N-[3-(methylamino)-2-oxo-1- (phenylmethyl)propyl]benzamide, hydrochloride | 0.76 mmole, 250 mg | Cl.CNCC(C(CC1=CC=CC=C1)NC(C1=CC=CC=C1)=O)=O
reactant | N-methyl morpholine | 2 mmole, 0.22 ml | CN1CCOCC1 | C5H11NO
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | (±)-1-[[[3-(benzoylamino)-2-oxo-4-phenylbutyl]methylamino]carbonyl]-L-proline, phenylmethyl ester | 37% | C(C1=CC=CC=C1)(=O)NC(C(CN(C(=O)N1[C@H](C(=O)OCC2=CC=CC=C2)CCC1)C)=O)CC1=CC=CC=C1 | C31H33N3O5
